US07932272B2
Quinoline-6-carboxylic acid cyanomethyl-amide
To a solution of quinoline-6-carboxylic acid (500 mg, 2.9 mmol) and amino acetonitrile hydrochloride (320 mg, 3.4 mmol) in N,N-dimethylformamide (10 mL) were added benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (1.5 g, 3.48 mmol) and triethylamine (1.2 mL, 8.7 mmol), and the solution was stirred at 60° C. for 10 minutes. Ethyl acetate and water was added to the reaction solution, which was then partitioned, the organic layer was washed twice with water. Silica gel was added to the organic layer, the solvent was evaporated in vacuo for adsorption, purified by NH silica gel column chromatography (ethyl acetate), and the title compound (420 mg, 2.0 mmol, 68.9%) was obtained as a light brown solid.

reactant | quinoline-6-carboxylic acid | 2.9 mmol, 500 mg | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | amino acetonitrile hydrochloride | 3.4 mmol, 320 mg | Cl.NCC#N
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 3.48 mmol, 1.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 8.7 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Quinoline-6-carboxylic acid cyanomethyl-amide | 2.0 mmol, 420 mg, 68.9% | C(#N)CNC(=O)C=1C=C2C=CC=NC2=CC1 | C12H9N3O
